US06858651B2
A solution of 645 mg (corresponds to 1.65 mmol) of trans-[4-(2-Hydroxy-ethylsulfanylmethyl)-cyclohexyl]-methyl-carbamic acid 4-chloro-phenyl ester in 12 ml CH2Cl2 was treated at 0° C. with 0.14 ml (1.82 mmol) methanesulfonylchloride, 0.20 ml (2.45 mmol) pyridine and 202 mg (1.65 mmol) DMAP. The reaction mixture was warmed up over night to room temperature. Water (2 ml) was added and the reaction was stirred for 5 min. After extraction with aqueous 10% KHSO4/Et2O (3×), the organic phases were washed with aqueous saturated NaHCO3 (2×), aqueous 10% NaCl, dried over Na2SO4 and evaporated to yield 650 mg (quantitative) trans-[4-(2-Chloro-ethylsulfanylmethyl)-cyclohexyl]-methyl-carbamic acid 4-chloro-phenyl ester, MS: 376 (MH+, 2Cl).

reactant | trans-[4-(2-Hydroxy-ethylsulfanylmethyl)-cyclohexyl]-methyl-carbamic acid 4-chloro-phenyl ester | 1.65 mmol, 645 mg | ClC1=CC=C(C=C1)OC(N(C)[C@@H]1CC[C@H](CC1)CSCCO)=O | C17H24ClNO3S
reactant | methanesulfonylchloride | 1.82 mmol, 0.14 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 2.45 mmol, 0.20 ml | N1=CC=CC=C1 | C5H5N
reactant | Water | 2 ml | O | H2O
solvent | CH2Cl2 | 12 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.65 mmol, 202 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | trans-[4-(2-Chloro-ethylsulfanylmethyl)-cyclohexyl]-methyl-carbamic acid 4-chloro-phenyl ester | 650 mg | ClC1=CC=C(C=C1)OC(N(C)[C@@H]1CC[C@H](CC1)CSCCCl)=O | C17H23Cl2NO2S
